US06982274B2
[3-(3-Fluorophenyl)-1-trityl-1H-5-indazolyl]methanol
Under ice-cooling, a solution of 3.85 g of methyl 3-(3-fluorophenyl)-1-trityl-1H-5-indazolecarboxylate in 40 ml tetrahydrofuran was added 535 mg of lithium aluminium hydride, and the mixture was stirred at the same temperature for 5 minutes and at room temperature for further 30 minutes. The reaction mixture was ice-cooled, saturated aqueous sodium sulfate solution was added, aluminium hydroxide was precipitated, and the organic layer was decanted. To the residue was added 20 ml of tetrahydrofuran, stirred, and the organic layer was re-decanted twice. The solvent was evaporated from the collected organic layers. The residue was dissolved in 80 ml of ethyl acetate, and then the mixture was sequentially washed with water and brine, dried over anhydrous magnesium sulfate and the solvent was evaporated. The resulting crude crystals were recrystallized from diisopropyl ether, to give 3.37 g of the title compound as white needles.

reactant | methyl 3-(3-fluorophenyl)-1-trityl-1H-5-indazolecarboxylate | 3.85 g | FC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C(=O)OC)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H25FN2O2
reactant | lithium aluminium hydride | 535 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | [3-(3-Fluorophenyl)-1-trityl-1H-5-indazolyl]methanol | 3.37 g | FC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)CO)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25FN2O
